US07754737B2
A 100 mL, three-neck flask was charged with Mg powder (720 mg, 30 mmol), and a solution of cyclopentylbromide (3.73 g, 25 mmol) in THF (25 mL) was added dropwise while the flask was heated with a heat gun. After stirring for about 2 h, most of the Mg had been consumed. The Grignard reagent was added to a suspension of CuBr.SMe2 (307.5 mg, 1.5 mmol) in THF (80 mL) at −78° C., the cuprate was stirred for 30 min and a solution of (S)-tert-butyl 2-(t-butyldimethylsilyloxymethyl)aziridine-1-carboxylate (2.87 g, 10 mmol) in ether (30 mL) was added. The mixture was stirred for 2 h, washed with sat'd aq NaHCO3 (2×20 mL) and brine (30 mL), dried over MgSO4, and evaporated. The residue was purified by silica chromatography to obtain tert-butyl (S)-3-cyclopentyl-1-(t-butyldimethylsilyloxy)propan-2-ylcarbamate (2.9 g, 81%) as an oil. 1H NMR (CDCl3, 400 MHz) δ 0.04 (s, 6H), 0.89 (s, 9H), 1.10 (m, 2H), 1.44 (s, 9H), 1.50 (m, 3H), 1.60 (m, 3H), 1.81 (m, 3H), 3.58 (m, 3H), 4.60 (brs, 1H).

reactant | cyclopentylbromide | 25 mmol, 3.73 g | C1(CCCC1)Br | C5H9Br
reactant | SMe2 | 1.5 mmol, 307.5 mg | S(C)C | C2H6S
reactant | (S)-tert-butyl 2-(t-butyldimethylsilyloxymethyl)aziridine-1-carboxylate | 10 mmol, 2.87 g | [Si](C)(C)(C(C)(C)C)OCC1[N@](C1)C(=O)OC(C)(C)C | C14H29NO3Si
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | ether | 30 mL | CCOCC | C4H10O
product | tert-butyl (S)-3-cyclopentyl-1-(t-butyldimethylsilyloxy)propan-2-ylcarbamate | 2.9 g, 81% | C1(CCCC1)C[C@@H](CO[Si](C)(C)C(C)(C)C)NC(OC(C)(C)C)=O | C19H39NO3Si
